US08735417B2
Potassium carbonate (9.95 mg, 0.072 mmol) was added to a solution of 2-mercaptoethanol (18.34 μL, 0.262 mmol) stirring in DMF (327 μL) at room temperature in an oven-dried vial. Stirred for 15 minutes, then added 4-[5-(3-methyl-5-{[4-(methylsulfonyl)-2-pyrimidinyl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one (30 mg, 0.065 mmol). Stirred at room temperature for 30 minutes, diluted with ethyl acetate (10 mL), and washed with 1:1 water:brine (10 mL). The organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo. Purified by CombiFlash (100:0 to 0:20 dichloromethane:methanol) to afford 4-{5-[3-({4-[(2-hydroxyethyl)sulfanyl]pyrimidin-2-yl}amino)-5-methylphenyl]-1,3-thiazol-2-yl}-1,4-diazepan-2-one (8.4 mg, 0.018 mmol, 28.1% yield) as a yellow solid. MS APCI: [M+H]+ m/z 457.1. 1H NMR (500 MHz, DMSO) δ 9.52 (s, 1H), 8.14 (d, J=5.3 Hz, 1H), 7.58 (d, J=12.2 Hz, 2H), 7.47 (d, J=8.4 Hz, 2H), 6.92 (s, 1H), 6.75 (d, J=5.4 Hz, 1H), 4.97 (t, J=5.4 Hz, 1H), 4.16 (s, 2H), 3.79 (s, 2H), 3.64 (dd, J=6.3 Hz, 11.9 Hz, 2H), 3.29 (s, 1H), 3.21 (s, 2H), 3.15 (d, J=5.2 Hz, 1H), 2.27 (s, 3H), 1.78 (s, 2H). rhSYK activity=+++.

reactant | Potassium carbonate | 0.072 mmol, 9.95 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercaptoethanol | 0.262 mmol, 18.34 μL | SCCO | C2H6OS
reactant | 4-[5-(3-methyl-5-{[4-(methylsulfonyl)-2-pyrimidinyl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one | 0.065 mmol, 30 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)S(=O)(=O)C)C1=CN=C(S1)N1CC(NCCC1)=O | C20H22N6O3S2
solvent | DMF | 327 μL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-{5-[3-({4-[(2-hydroxyethyl)sulfanyl]pyrimidin-2-yl}amino)-5-methylphenyl]-1,3-thiazol-2-yl}-1,4-diazepan-2-one | 0.018 mmol, 8.4 mg, 28.1% yield | OCCSC1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C1=CN=C(S1)N1CC(NCCC1)=O | C21H24N6O2S2
